US07671054B1
To a solution of [1-[Benzothiazol-4-ylmethyl-(2,2-diethoxy-ethyl)-carbamoyl]-2-(4-tert-butoxy-phenyl)-ethyl]-carbamic acid benzyl ester (3.64 g, 5.76 mmol) in MeOH (50 mL) was added Pd/C (500 mg). After 2 h of stirring under H2 atmosphere, the solution was filtered on Celite and the solvent was evaporated to afford 2-Amino-N-benzothiazol-4-ylmethyl-3-(4-tert-butoxy-phenyl)-N-(2,2-diethoxy-ethyl)-propionamide which was used next step without further purification.

reactant | [1-[Benzothiazol-4-ylmethyl-(2,2-diethoxy-ethyl)-carbamoyl]-2-(4-tert-butoxy-phenyl)-ethyl]-carbamic acid benzyl ester | 5.76 mmol, 3.64 g | C(C1=CC=CC=C1)OC(NC(CC1=CC=C(C=C1)OC(C)(C)C)C(N(CC(OCC)OCC)CC1=CC=CC2=C1N=CS2)=O)=O | C35H43N3O6S
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 2-Amino-N-benzothiazol-4-ylmethyl-3-(4-tert-butoxy-phenyl)-N-(2,2-diethoxy-ethyl)-propionamide | NC(C(=O)N(CC(OCC)OCC)CC1=CC=CC2=C1N=CS2)CC2=CC=C(C=C2)OC(C)(C)C | C27H37N3O4S
